US07482462B2
90 ml of an aqueous solution of NH3 (32%) is added at room temperature to a solution of 8.88 g of 4-bromo-2,5-dichloro-thiophene-3-sulfonylchloride in 120 ml of EtAc. The mixture obtained is stirred for ca. 15 hours. Two phases obtained are separated, the organic layer is washed with 1 N HCl and H2O, and dried. Solvent of the organic phase obtained is evaporated. 4-Bromo-2,5-dichloro-thiophene-3-sulfonamide is obtained in the form of a white powder. m.p. 113-117°; 13C—NMR (CDCl3): δ=108.287; 125.342; 130.404; 135.716.

reactant | NH3 | N | H3N
reactant | 4-bromo-2,5-dichloro-thiophene-3-sulfonylchloride | 8.88 g | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)Cl | C4BrCl3O2S2
product | 4-Bromo-2,5-dichloro-thiophene-3-sulfonamide | BrC=1C(=C(SC1Cl)Cl)S(=O)(=O)N | C4H2BrCl2NO2S2
